US06066744
Into a 1,000 mλ reaction flask equipped with a thermometer, a stirrer, a condenser and a dropping funnel, 209 g (1.0 mol) of 1-benzylindoline and 365.5 g (5.0 mols) of N,N-dimethylformamide (DMF) were charged, and the temperature was raised to a liquid temperature of from 30 to 40° C. Then, while stirring at the same temperature, 161.0 g (1.05 mols) of phosphorus oxychloride was dropwise added thereto over a period of about two hours from the dropping funnel. After completion of the dropwise addition, stirring was continued for three hours at from 80 to 100° C. After completion of the reaction, the reaction solution was cooled to room temperature and put into 1 kg of ice water. At a temperature of from 30 to 40° C., a 24% sodium hydroxide aqueous solution was dropwise added thereto to bring the liquid alkaline, whereby the precipitated solid was collected by filtration, washed with water and dried to obtain 230.2 g (yield: 97%) of 1-benzyl-5-formylindoline as a slightly yellow powder.

reactant | 1-benzylindoline | 1.0 mol, 209 g | C(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C15H15N
reactant | N,N-dimethylformamide | 5.0 mols, 365.5 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 1.05 mols, 161.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-benzyl-5-formylindoline | 230.2 g, yield: 97% | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C=O | C16H15NO
